US09029374B2
8-(1-aminoethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide (300 mg, 0.87 mmol, [α]D20°: +35° in acetonitrile) was reacted with 3-bromo-5-fluorobenzonitrile (382 mg, 1.91 mmol) using a procedure similar to the one described in Example 8.00. Purification was done by flash chromatography on silica gel eluting with 0 to 5% MeOH in DCM followed by preparative HPLC on a Waters X-Bridge system. The fractions containing the desired compound were evaporated to dryness to afford 8-(1-(3-cyano-5-fluorophenylamino)ethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide (330 mg, 82%) as a clear white solid. Mass Spectrum: M+H+ 465.

reactant | 8-(1-aminoethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide | 0.87 mmol, 300 mg | NC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)N(C)C | C18H23N3O4
reactant | 3-bromo-5-fluorobenzonitrile | 1.91 mmol, 382 mg | BrC=1C=C(C#N)C=C(C1)F | C7H3BrFN
product | 8-(1-(3-cyano-5-fluorophenylamino)ethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide | 330 mg, 82% | C(#N)C=1C=C(C=C(C1)F)NC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)N(C)C | C25H25FN4O4
